US05451607
A solution of 2-(3-chlorobenzyl)-2-(4-chlorophenyl)propionic acid (10 g) which had been prepared in paragraph 2), and thionyl chloride (14 g) in hexane (100 ml) was heated under reflux for 5 hours. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The resulting residue was dissolved in carbon disulfide (100 ml), and the solution was cooled with ice, to which anhydrous aluminum chloride (4.2 g) was added in three portions at intervals of 15 minutes. After allowing the temperature to gradual increase to room temperature, the reaction mixture was diluted with dichloromethane (100 ml), poured into 20% hydrochloric acid and ice-water, followed by stirring for 2 hours. The organic layer was dried over anhydrous magnesium sulfate, and reduced under reduced pressure. The resulting residue was subjected to chromatography on silica gel to give 5-chloro-2-(4-chlorophenyl)-2-methyl-2,3-dihydro-1H-inden-1-one (yield, 7.2 g) as white crystals, m.p., 92.2° C,.

reactant | 2-(3-chlorobenzyl)-2-(4-chlorophenyl)propionic acid | 10 g | ClC=1C=C(CC(C(=O)O)(C)C2=CC=C(C=C2)Cl)C=CC1 | C16H14Cl2O2
reactant | thionyl chloride | 14 g | S(=O)(Cl)Cl | Cl2OS
solvent | hexane | 100 ml | CCCCCC | C6H14
product | 5-chloro-2-(4-chlorophenyl)-2-methyl-2,3-dihydro-1H-inden-1-one | 7.2 g | ClC=1C=C2CC(C(C2=CC1)=O)(C)C1=CC=C(C=C1)Cl | C16H12Cl2O
